US07638657B2
370 g (1.248 mol) of 1-(2′-ethyl-5′-hydroxy-2-propylbiphenyl-4-yl)propan-1-one in solution in 3.7 liters of tetrahydrofuran are placed in a reactor. 915 ml of a 3M solution of ethylmagnesium bromide in ethyl ether are slowly run into this solution cooled to −10° C. At the end of the addition, the reaction mixture is kept stirred for 1 hour and then transferred onto 5 liters of a 2.5 molar solution of ammonium chloride in water. The organic phase is separated by settling and washed twice with 800 ml of water. After evaporating under reduced vacuum, the residue is dissolved with 2.75 liters of methylene chloride at reflux. The medium is allowed to return to ambient temperature with stirring and is then cooled to 5° C. The crystals are filtered off and then dried under vacuum. 260 g (64%) of 6-ethyl-4′-(1-ethyl-1-hydroxypropyl)-2′-propylbiphenyl-3-ol are obtained. Melting point: 130° C. 1H NMR (d6-DMSO) (ppm): 0.67-0.74, m, 9H; 0.9, t, 3H; 1.38, m, 2H; 1.71-1.77, m, 4H; 2.13-2.35, m, 4H; 4.48, s, 1H; 6.45, d, 1H; 6.70, dd, 1H; 6.94, d, 1H; 7.07, d, 1H; 7.18, dd, 1H; 7.26, s, 1H; 9.16, s, 1H

reactant | 1-(2′-ethyl-5′-hydroxy-2-propylbiphenyl-4-yl)propan-1-one | 1.248 mol, 370 g | C(C)C1=C(C=C(C=C1)O)C1=C(C=C(C=C1)C(CC)=O)CCC | C20H24O2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3.7 liters | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 6-ethyl-4′-(1-ethyl-1-hydroxypropyl)-2′-propylbiphenyl-3-ol | 260 g, 64% | C(C)C1=CC=C(C=C1C1=C(C=C(C=C1)C(CC)(O)CC)CCC)O | C22H30O2
